US06599925B2
Following the procedure described in Step 2 of Example 4, 1-[2-(5-bromo-6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-1-pentanone (2.38 g, 5.62 mmol) was coupled to ethyl 2-hydroxy-3-phenylpropanoate (1.65 g, 8.50 mmol) in presence of triphenylphosphine (2.23 g, 8.50 mmol) and diisopropylazodicarboxylate (1.7 mL, 8.5 mmol) in benzene (62 mL). Purification by HPLC, using 95% acetonitrile in water as the mobile phase, yielded ethyl 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate as a yellow gum (1.86 g). 1HNMR (300 MHz, DMSO-d6): δ8.45 (s, 1H), 8.25 (d, 1H, J=7.7 Hz), 8.1 (d, 1H, J=7.7 Hz), 7.95-8.1 (m, 2H), 7.85 (d, 1H, J=7.7 Hz), 7.4-7.5 (m, 5H), 7.2-7.4 (m, 3H), 5.5 (t, 1H, J=6.0 Hz), 4.1 (q, 2H, J=7.0 Hz), 2.75 (t, 2H, J=7.0 Hz), 1.45-1.6 (m, 2H), 1.05-1.25 (m, 6H), and 0.7 ppm (t, 3H, J=7.0 Hz).

reactant | 1-[2-(5-bromo-6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-1-pentanone | 5.62 mmol, 2.38 g | BrC1=C2C=CC(=CC2=CC=C1O)C=1OC2=C(C1C(CCCC)=O)C=CC=C2 | C23H19BrO3
reactant | ethyl 2-hydroxy-3-phenylpropanoate | 8.50 mmol, 1.65 g | OC(C(=O)OCC)CC1=CC=CC=C1 | C11H14O3
reactant | triphenylphosphine | 8.50 mmol, 2.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 8.5 mmol, 1.7 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | benzene | 62 mL | C1=CC=CC=C1 | C6H6
product | ethyl 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate | 1.86 g | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=CC=C2)OC(C(=O)OCC)CC2=CC=CC=C2 | C34H31BrO5
